US07820658B2
2-Amino-4-[2,4-dichloro-5-(2,2-diethoxy-ethoxy)-phenyl]-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide
Potassium tert-butoxide was added to a suspension of 2-Amino-4-(2,4-dichloro-5-hydroxyphenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide in acetonitrile, bromoacetaldehyde diethyl acetal was added and the suspension heated under reflux for ˜8 hrs. The resulting suspension was allowed to cool and water added, the mixture was extracted with ethyl acetate and the extracts washed with water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous sodium sulphate and concentrated to a red/brown gum. The crude product was purified by chromatography on silica eluting with mixtures of ethyl acetate and hexane.

reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-Amino-4-(2,4-dichloro-5-hydroxyphenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=C(C(=C2)O)Cl)Cl)N)S1 | C15H12Cl2N4O2S
reactant | water | O | H2O
reactant | bromoacetaldehyde diethyl acetal | C(C)OC(CBr)OCC | C6H13BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-4-[2,4-dichloro-5-(2,2-diethoxy-ethoxy)-phenyl]-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=C(C(=C2)OCC(OCC)OCC)Cl)Cl)N)S1 | C21H24Cl2N4O4S
